US07645784B2
2-(1H-Benzimidazol-1-yl)-N-(3,4-difluorophenyl)acetamide
The title compound was synthesised according to the procedure described in Example 92, from 3-carboxymethyl-3H-benzoimidazol-1-ium trifluoro-acetate and 3,4-difluoroaniline Yield 9.1 mg (26%). Calculated for C15H11F2N3O m/z: 287.2, found 288.3 [M+H]+. 1H NMR (400 MD, MeOD) δ ppm 5.2 (s, 2H), 7.3 (m, 4 H), 7.5 (d, J=7.1 Hz, 1H), 7.7 (m, 2H),8.2(s, 1H).

reactant | 3-carboxymethyl-3H-benzoimidazol-1-ium trifluoro-acetate | FC(C(=O)[O-])(F)F.C(=O)(O)CN1C=[NH+]C2=C1C=CC=C2
reactant | 3,4-difluoroaniline | Yield 9.1 mg | FC=1C=C(N)C=CC1F | C6H5F2N
product | 2-(1H-Benzimidazol-1-yl)-N-(3,4-difluorophenyl)acetamide | N1(C=NC2=C1C=CC=C2)CC(=O)NC2=CC(=C(C=C2)F)F | C15H11F2N3O
